US09108957B2
A mixture of 1-(4-bromo-phenyl)-3-chloro-propan-1-ol (25 g, 100 mmol), (R)-1-phenylethylamine (25 mL, 200 mmol), potassium iodide (33 g, 200 mmol) and potassium carbonate (27.6 g, 200 mmol) in acetonitrile (600 mL) was prepared at room temperature and warmed to 75° C. After stirring for 40 hours, solvent was evaporated. And then distillable removal of excess (R)-1-phenylethylamine was performed at 120° C. under reduced pressure. The obtained residue was dissolved in dichloromethane (200 mL) and to the resulting solution was added triethylamine (16.7 mL, 120 mmol) and chloroacetylchloride (10 mL, 120 mmol) at 0° C. After stirring for one hour, the reaction solution was poured into 1N hydrochloric acid aqueous solution and extracted with chloroform. The extracts were dried over anhydrous sodium sulfate and concentrated. The resulting residue was diluted with 2-propanol (100 mL) and to the mixture was added potassium hydroxide (9.9 g, 150 mmol) at room temperature. After stirring for 5 hours, the reaction mixture was diluted with water and extracted with ethyl acetate. The organic phase was dried over anhydrous sodium hydroxide and concentrated. Purification of the residue and separation of each diastereomer were performed by flash column chromatography on silica gel (hexane/ethyl acetate=2/1 to 1/1 as eluants) to yield 7-(4-bromo-phenyl)-4-((R)-1-phenyl-ethyl)-[1,4]oxazepan-3-one (diastereomer A; 13.1 g, 35 mmol, 35% in 3 steps) as brown oil and 7-(4-bromo-phenyl)-4-((R)-1-phenyl-ethyl)-[1,4]oxazepan-3-one (diastereomer B; 11.0 g, 29.4 mmol, 29% in 3 steps) as white solid. 7-(4-Bromo-phenyl)-4-((R)-1-phenyl-ethyl)-[1,4]oxazepan-3-one (diastereomer A):

reactant | 1-(4-bromo-phenyl)-3-chloro-propan-1-ol | 100 mmol, 25 g | BrC1=CC=C(C=C1)C(CCCl)O | C9H10BrClO
reactant | (R)-1-phenylethylamine | 200 mmol, 25 mL | C1(=CC=CC=C1)[C@@H](C)N | C8H11N
reactant | potassium iodide | 200 mmol, 33 g | [I-].[K+]
reactant | potassium carbonate | 200 mmol, 27.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | triethylamine | 120 mmol, 16.7 mL | C(C)N(CC)CC | C6H15N
reactant | chloroacetylchloride | 120 mmol, 10 mL | ClCC(=O)Cl | C2H2Cl2O
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | potassium hydroxide | 150 mmol, 9.9 g | [OH-].[K+]
solvent | acetonitrile | 600 mL | C(C)#N | C2H3N
solvent | water | O | H2O
product | 7-(4-bromo-phenyl)-4-((R)-1-phenyl-ethyl)-[1,4]oxazepan-3-one | BrC1=CC=C(C=C1)C1CCN(C(CO1)=O)[C@H](C)C1=CC=CC=C1 | C19H20BrNO2
